US07615648B2
A mixture of 4-chlorosalicylic acid (10.0 g, 57.94 mmol) and potassium carbonate (80 g, 0.58 mol) and diethyl sulphate (18.76 g, 0.122 mol) in acetone (150 ml) is heated at reflux with stirring for 24 h. The suspension is cooled and diluted with water (200 ml). Extract with diethyl ether (2×) and wash the extracts with water (2×) and brine. The organic phase is dried over magnesium sulphate, filtered and evaporated to a brown oil. The oil is purified using the combiflash on a 120 g silica cartridge eluting with isohexane-ethyl acetate (0 to 25% over 30 min.) to give ethyl 4-chloro-2-ethoxybenzoate as a colourless oil.

reactant | 4-chlorosalicylic acid | 57.94 mmol, 10.0 g | ClC=1C=C(C(C(=O)O)=CC1)O | C7H5ClO3
reactant | potassium carbonate | 0.58 mol, 80 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl sulphate | 0.122 mol, 18.76 g | S(=O)(=O)(OCC)OCC | C4H10O4S
reactant | acetone | 150 ml | CC(=O)C | C3H6O
solvent | water | 200 ml | O | H2O
product | ethyl 4-chloro-2-ethoxybenzoate | ClC1=CC(=C(C(=O)OCC)C=C1)OCC | C11H13ClO3
